US07858632B2
To a solution of 5-[5-(4,5-dihydro-1H-imidazol-2-yl)-2-isopropyl-4-methoxy-phenoxy]-pyrimidine-2,4-diamine (0.033 g, 0,096 mmol) in dry methylene chloride (25 ml) was added barium manganate (0.4 g, 1.56 mmol). The reaction mixture refluxed over night, after which more of barium manganate (0.1 g) was added, and the mixture was refluxed for another 6 hours. The reaction mixture was filtered through celite, and the filtrate was concentrated under reduced pressure. The residue was purified with preparative TLC (8% methanol in methylene chloride/0.1% concentrated ammonium hydroxide) to yield 5-[5-(1H-imidazol-2-yl)-2-isopropyl-4-methoxy-phenoxy]-pyrimidine-2,4-diamine as pale yellow solid (0.026 g, 41%).

reactant | 5-[5-(4,5-dihydro-1H-imidazol-2-yl)-2-isopropyl-4-methoxy-phenoxy]-pyrimidine-2,4-diamine | 0,096 mmol, 0.033 g | N1C(=NCC1)C=1C(=CC(=C(OC=2C(=NC(=NC2)N)N)C1)C(C)C)OC | C17H22N6O2
reactant | barium manganate | 1.56 mmol, 0.4 g | [Mn](=O)(=O)([O-])[O-].[Ba+2]
reactant | barium manganate | 0.1 g | [Mn](=O)(=O)([O-])[O-].[Ba+2]
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | 5-[5-(1H-imidazol-2-yl)-2-isopropyl-4-methoxy-phenoxy]-pyrimidine-2,4-diamine | 0.026 g, 41% | N1C(=NC=C1)C=1C(=CC(=C(OC=2C(=NC(=NC2)N)N)C1)C(C)C)OC | C17H20N6O2
